US07790751B2
A suspension of 3-(1-naphthylsulfonyl)-5-(piperidin-4-yloxy)-1H-indazole (71.2 mg, 0.175 mmol) in 1,2-dichloroethane was treated sequentially with acetone (0.4 mL, 5 mmol) and acetic acid (0.13 mL, 2.3 mmol), stirred for 2 hours, treated portionwise with sodium triacetoxyborohydride (255 mg, 1.20 mmol), stirred for 25 hours at ambient temperatures under nitrogen, diluted with ethyl acetate and washed with 1.0 N sodium hydroxide and brine. The organic phase was treated with methanol and chloroform, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 0.3-1.0% ammonium hydroxide/3.0-10% methanol in chloroform to afford 5-(1-isopropylpiperidin-4-yloxy)-3-(1-naphthylsulfonyl)-1H-indazole as a light orange foam, 40.9 mg (52.0% yield). The foam was dispersed in methanol and chloroform, treated with isopropanolic HCl and concentrated for 12 hours in vacuo to yield the title product as a light orange foam, 37 mg, Mass spectrum (−EI, [M−H]−) m/z 448. 1HNMR (300 MHz, DMSO-d6): δ14.11-14.15 (m*, 1H), 9.82-9.84 (m, 1H), 8.69-8.76 (m, 1H), 8.54-8.58 (m, 1H), 8.27 (d, 1H, J=8.30 Hz), 8.02-8.04 (m, 1H), 7.70-7.75 (m, 1H), 7.54-7.63 (m, 3H), 7.29-7.36 (m*, 1H), 7.07-7.21 (m* and dd*, 1H, J=9.15 Hz and 2.31 Hz), 4.60-4.81 (m*, 1H), 3.40-3.50 (m, 2H), 3.06-3.21 (m*, 3H), 2.10-2.20 (m, 2H), 2.00-2.08 (m, 1H), 1.80-1.95 (m, 1H), 1.22-1.28 ppm (m, 6H). *Conformational isomers due to protonation of tertiary amine.

reactant | 3-(1-naphthylsulfonyl)-5-(piperidin-4-yloxy)-1H-indazole | 0.175 mmol, 71.2 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CCNCC1 | C22H21N3O3S
reactant | acetone | 5 mmol, 0.4 mL | CC(=O)C | C3H6O
reactant | acetic acid | 2.3 mmol, 0.13 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.20 mmol, 255 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(1-isopropylpiperidin-4-yloxy)-3-(1-naphthylsulfonyl)-1H-indazole | 52.0% yield | C(C)(C)N1CCC(CC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C25H27N3O3S
